US07820683B2
To a stirred partial solution of 4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-ol (870 mg, 2.36 mmol), methyl (2S)-2-hydroxypropanoate (368 mg, 3.54 mmol) and triphenylphosphine (927 mg, 3.54 mmol) in DCM (20 ml) was added DTAD (814 mg, 3.54 mmol). The mixture was stirred for 1 hour, becoming a clear solution. The solution was extracted with 2N aqueous hydrogen chloride, discarding the organic phase. The aqueous phase was basified with aqueous ammonia and extracted with DCM. The organic phase was washed with brine, dried and evaporated to an oil which crystallised on trituration with ether to give methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (789 mg, 74%); NMR spectrum (300 MHz) 1.70 (d, 3H), 3.78 (s, 3H), 5.51 (q, 1H), 5.76 (s, 2H), 6.95 (d, 1H), 7.16 (d, 1H), 7.28 (dd, 1H), 7.37 (d, 1H), 7.69 (m, 4H), 8.16 (s, 1H), 8.43 (s, 1H), 8.52 (s, 2H), 10.48 (s, 1H); Mass spectrum MH+ 455.

reactant | 4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-ol | 2.36 mmol, 870 mg | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC=2C=CC=C(C12)O | C21H16N6O
reactant | methyl (2S)-2-hydroxypropanoate | 3.54 mmol, 368 mg | O[C@H](C(=O)OC)C | C4H8O3
reactant | triphenylphosphine | 3.54 mmol, 927 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 789 mg, 74% | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C25H22N6O3
